US07838499B2
Preparation of 2-(2-fluoroethoxy)ethyl 4-methylbenzenesulfonate (Intermediate CB)
2-(2-Fluoroethoxy)ethanol (0.11 g, 1.0 mmol), p-toluenesulfonyl chloride (0.19 g, 1.0 mmol), and DMAP (0.12 g, 1.0 mmol) were dissolved in dichloromethane (2 ml) at 0° C. The resulting mixture was stirred for 2 h at 0° C., after which it was subjected directly to silica gel chromatography using dichloromethane as the eluent to give the title compound (70 mg, 27%) as a clear oil. It was observed that the size of the column affects reaction yield, with a smaller column giving a better yield. 1H NMR (CDCl3, 300 MHz): δ 7.79 (d, 2H, J=11.6 Hz), 7.33 (d, 2H, J=11.6 Hz), 4.48 (dt, 2H, J1=64.0 Hz, J2=5.6 Hz), 4.17 (t, 2H, J=6.4 Hz), 3.71 (t, 2H, J=6.4 Hz), 3.66 (dt, 2H, J1=5.6 Hz, J2=39.2 Hz), 2.44 (br S, 3H).

reactant | 2-(2-Fluoroethoxy)ethanol | 1.0 mmol, 0.11 g | FCCOCCO | C4H9FO2
reactant | p-toluenesulfonyl chloride | 1.0 mmol, 0.19 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | DMAP | 1.0 mmol, 0.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2-(2-fluoroethoxy)ethyl 4-methylbenzenesulfonate | 70 mg, 27% | CC1=CC=C(C=C1)S(=O)(=O)OCCOCCF | C11H15FO4S
